US05700809
To a solution of benzofuran (4 g, 33.9 mmol) in tetrahydrofuran (90 ml) at -10° C. was slowly added a solution of n-butyllithium (2.5M in hexanes, 13.6 ml, 34 mmol), keeping the temperature at -10° C. The reaction was stirred and allowed to warm to room temperature over 1 hr, after which a solution of 1-benzyl-4-piperidone (6.3 ml, 34 mmol) in tetrahydrofuran (30 ml) was added dropwise. Stirring was continued for 2 hr at room temperature. The solvent was evaporated and the residue partitioned between saturated aqueous sodium carbonate (75 ml) and ethyl acetate (3×100 ml). The combined organics were dried (MgSO4) and evaporated. The residue was purified by column chromatography, eluting with ethyl acetate, to give 4-(benzofuran-2-yl)-1-benzyl-4-hydroxypyridine (7.5 g, 75%); δH (CDCl3) 1.96-2.00 (2H, m, piperidinyl CH2), 2.21-2.29 (2H, m, piperidinyl CH2), 2.44 (1H, t, J 6.2 Hz, piperidinyl CH), 2.56 (2H, dt, J 11.1, 2.7 Hz, piperidinyl CH2), 2.64-2.68 (3H, m, piperidinyl CH2, OH), 2.73 (1H, t, J 6.2 Hz, piperidinyl CH), 3.55 (2H, s, PhCH2N), 6.58 (1H, s, 3'-H), 7.19-7.34 (7H, m, ArH), 7.44 (1H, d, J 7.3 Hz, ArH), and 7.52 (1H, d, J 6.6 Hz, ArH).

reactant | benzofuran | 33.9 mmol, 4 g | O1C=CC2=C1C=CC=C2 | C8H6O
reactant | n-butyllithium | 34 mmol, 2.5M, 13.6 ml | C(CCC)[Li]
reactant | 1-benzyl-4-piperidone | 34 mmol, 6.3 ml | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
solvent | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-(benzofuran-2-yl)-1-benzyl-4-hydroxypyridine | 7.5 g, 75% | O1C(=CC2=C1C=CC=C2)C2(C=CN(C=C2)CC2=CC=CC=C2)O | C20H17NO2
